US08497263B2
To a mixture of 5-cyclohexyl-4-(2,2-dimethylpropionoyl)-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-1,5-dihydropyrrol-2-one (0.10 g, 0.25 mmol) and acetic acid (1 mL) was added hydrazine monohydrate (0.036 mL, 0.75 mmol). The mixture was stirred at 85° C. for 3 hr. Water (80 mL) was added to the mixture, which was then extracted with ethyl acetate (100 mL). The organic layer was washed with saturated aqueous sodium bicarbonate (80 mL×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane). The crude product was recrystallized from ethyl acetate to give 3-tert-butyl-4-cyclohexyl-5-(4-isoxazol-3-ylphenyl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one (0.072 g, 71%) as colorless crystals.

reactant | 5-cyclohexyl-4-(2,2-dimethylpropionoyl)-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-1,5-dihydropyrrol-2-one | 0.25 mmol, 0.10 g | C1(CCCCC1)C1C(=C(C(N1C1=CC=C(C=C1)C1=NOC=C1)=O)O)C(C(C)(C)C)=O | C24H28N2O4
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine monohydrate | 0.75 mmol, 0.036 mL | O.NN
solvent | Water | 80 mL | O | H2O
product | 3-tert-butyl-4-cyclohexyl-5-(4-isoxazol-3-ylphenyl)-4,5-dihydro-1H-pyrrolo[3,4-c]pyrazol-6-one | 0.072 g, 71% | C(C)(C)(C)C=1C2=C(NN1)C(N(C2C2CCCCC2)C2=CC=C(C=C2)C2=NOC=C2)=O | C24H28N4O2
